US09334267B2
1-(2-Fluoro-4-methyl-5-(7-methyl-2-(methylamino)pyrido[2,3-d]pyrimidin-6-yl)phenyl)-3-(3-methoxy-3-methylbutyl)urea
Combine 1-(2-fluoro-4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-3-(3-methoxy-3-methylbutyl)urea (0.17 g, 0.431 mmol), 7-methyl-2-(methylamino)pyrido[2,3-d]pyrimidin-6-yl trifluoromethanesulfonate (0.139 g, 0.431 mmol) and NaHCO3 (0.109 g, 1.293 mmol) in dioxane (6 mL) and H2O (1.5 mL). Sparge the mixture with argon. Treat with tetrakis(triphenylphosphine)palladium (0.025 g, 0.022 mmol), sparge again with argon and heat at 55° C. overnight. Add an additional portion of tetrakis(triphenylphosphine)palladium (25 mg, 0.022 mmol) and heat at 65° C. overnight. Cool the mixture to RT, remove solids by filtration, and wash solids with dioxane. Combine filtrates, dilute with EtOAc, wash with saturated NaHCO3 and brine, dry over Na2SO4, concentrate to dryness and purify via silica gel chromatography (EtOAc/Hex). Dissolve in DCM, wash with saturated NaHCO3 and brine, dry over Na2SO4, concentrate to dryness. Treat with 1:1 MeCN/H2O, freeze in −78° C. bath and lyophilize to obtain the title compound (40 mg, 21% yield) as a pale yellow solid. MS (ESI) m/z: 441.2 (M+1).

reactant | 1-(2-fluoro-4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-3-(3-methoxy-3-methylbutyl)urea | 0.431 mmol, 0.17 g | FC1=C(C=C(C(=C1)C)B1OC(C(O1)(C)C)(C)C)NC(=O)NCCC(C)(C)OC | C20H32BFN2O4
reactant | 7-methyl-2-(methylamino)pyrido[2,3-d]pyrimidin-6-yl trifluoromethanesulfonate | 0.431 mmol, 0.139 g | FC(S(=O)(=O)OC1=CC2=C(N=C(N=C2)NC)N=C1C)(F)F | C10H9F3N4O3S
reactant | NaHCO3 | 1.293 mmol, 0.109 g | C(=O)(O)[O-].[Na+]
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 1.5 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.022 mmol, 0.025 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | tetrakis(triphenylphosphine)palladium | 0.022 mmol, 25 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(2-Fluoro-4-methyl-5-(7-methyl-2-(methylamino)pyrido[2,3-d]pyrimidin-6-yl)phenyl)-3-(3-methoxy-3-methylbutyl)urea | 40 mg, 21% yield | FC1=C(C=C(C(=C1)C)C1=CC2=C(N=C(N=C2)NC)N=C1C)NC(=O)NCCC(C)(C)OC | C23H29FN6O2
